US06114390
a) (R S)-3-(4-Cyanophenyl)-alanine-hydrochloride
A mixture of 235 g (0.707 Mol) of diethyl -(acetamido)-α-[(4-cyanophenyl)methyl]-malonate (Mp. 163-165° C.; prepared from diethyl α-(acetamido)-malonate and 4-(bromomethyl)-benzonitrile in the presence of sodium ethoxide), 1.28 l (3.84 Mol) of 3N aqueous hydrochloric acid and 0.64 l of glacial acetic acid were refluxed for 7 hours. The mixture cooled to +5° C. was filtered and the filtrate was evaporated down in vacuo. The residue was intensively washed with isopropanol and then dried in vacuo. 92.9 g (58% of theory) of colourless crystals were obtained, Mp. 219° C. (D.).

reactant | diethyl -(acetamido)-α-[(4-cyanophenyl)methyl]-malonate | 0.707 Mol, 235 g | C(C)OC(C(C(=O)OCC)(CC1=CC=C(C=C1)C#N)NC(C)=O)=O | C17H20N2O5
reactant | diethyl α-(acetamido)-malonate | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 4-(bromomethyl)-benzonitrile | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 3.84 Mol, 3N, 1.28 l | Cl | ClH
solvent | acetic acid | 0.64 l | C(C)(=O)O | C2H4O2
product | (R S)-3-(4-Cyanophenyl)-alanine-hydrochloride | Cl.C(#N)C1=CC=C(C=C1)CC(N)C(=O)O | InChI=1S/C10H10N2O2.ClH/c11-6-8-3-1-7(2-4-8)5-9(12)10(13)14;/h1-4,9H,5,12H2,(H,13,14);1H
